US08207216B2
To a solution of 2-(6-hydroxy-benzofuran-3-yl)-acetamide (0.23 g, 1.20 mmol) in a mixture of dry dichloromethane (20 mL) and DMF (6 mL) was added imidazole (0.34 g, 5.05 mmol), followed by tert-butyldiphenylchlorosilane (1.31 mL, 5.05 mmol) at room temperature and the mixture was stirred for two days. The solution was quenched with methanol and stirred for 10 min. The solvent was evaporated in vacuo and the residue was purified by column chromatography (methanol:dichloromethane; 5:95) to give the 2-[6-(tert-butyl-diphenyl-silanyloxy)-benzofuran-3-yl]-acetamide as a white solid (0.40 g, 78%). 1H NMR (DMSO-d6, 400 MHz) 1.06 (s, 9H), 3.38 (s, 2H), 6.74 (dd, J=1.8, 8.4 Hz, 1H), 6.80 (d, J=1.8 Hz, 1H), 7.40 (d, J=8.4 Hz, 1H), 7.42-7.54 (m, 7H), 7.64 (s, 1H), 7.70 (m, 4H), 7.80 (s, 1H).

reactant | 2-(6-hydroxy-benzofuran-3-yl)-acetamide | 1.20 mmol, 0.23 g | OC1=CC2=C(C(=CO2)CC(=O)N)C=C1 | C10H9NO3
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | imidazole | 5.05 mmol, 0.34 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylchlorosilane | 5.05 mmol, 1.31 mL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-[6-(tert-butyl-diphenyl-silanyloxy)-benzofuran-3-yl]-acetamide | 0.40 g, 78% | C(C)(C)(C)[Si](OC1=CC2=C(C(=CO2)CC(=O)N)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27NO3Si
